US08278341B2
A solution of 5,7-diBOC-2,10-difluoro-6-methylindolo[2,3-b]carbazole (4.45 g, 8.8 mmol) was stirred with a solution of 20% trifluoroacetic acid in dichloromethane (100 mL) at room temperature for two hours. The solvents were evaporated and the residue dissolved in ethyl acetate (200 mL). This was washed with saturated sodium bicarbonate solution (100 mL) and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel, eluting with a gradient of dichloromethane and hexane (50% dichloromethane to 100% dichloromethane) to give 2,10-difluoro-6-methyl-5,7-dihydro-indolo[2,3-b]carbazole (2.4 g, 90% yield). 1H NMR (300 MHz) (DMSO-d6) δ 11.05 (2H, s, —NH), 8.67 (1H, s, arom), 7.89 (2H, dd, J=9.5, 2.6 Hz, arom), 7.43 (2H, dd, J=8.9, 4.4 Hz, arom), 7.17 ppm (2H, dt, J=9.5, 2.6 Hz, arom) and 2.70 ppm (3H, s, —CH3).

reactant | 5,7-diBOC-2,10-difluoro-6-methylindolo[2,3-b]carbazole | 8.8 mmol, 4.45 g | C(=O)(OC(C)(C)C)N1C2=CC=C(C=C2C=2C=C3C(=C(C12)C)N(C=1C=CC(=CC13)F)C(=O)OC(C)(C)C)F | C29H28F2N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,10-difluoro-6-methyl-5,7-dihydro-indolo[2,3-b]carbazole | 2.4 g, 90% yield | FC=1C=C2C=3C=C4C(=C(C3NC2=CC1)C)NC=1C=CC(=CC14)F | C19H12F2N2
